US06750215B2
To a stirred solution of 3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)-amino] propanol (3 g, 9.92 mmol) and triethylamine (1.2 g, 11.91 mmol) in anhydrous dichloromethane, kept at 0° C. under nitrogen atmosphere, methanesulfonyl chloride (1.36 g, 11.91 mmol) was added, the reaction was allowed to warm to room temperature and stirred for 1 h. The mixture was washed with ice-water, dried with sodium sulfate, filtered and concentrated to give 2.17 g (61%) of 3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino]-propyl methanesulfonate which, when required, was purified by flash chromatography (dichloromethane/methanol 95:5).

reactant | 3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)-amino] propanol | 9.92 mmol, 3 g | C(C1=CC=CC=C1)OC(=O)N(C1=[N+](C=CC=C1)[O-])CCCO | C16H18N2O4
reactant | triethylamine | 11.91 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.91 mmol, 1.36 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino]-propyl methanesulfonate | 2.17 g, 61% | CS(=O)(=O)OCCCN(C1=[N+](C=CC=C1)[O-])C(=O)OCC1=CC=CC=C1 | C17H20N2O6S
